US06451781B1
b) Methyl 4-[7,12-dihydroxy-3-(2-hydroxyethoxy)-10,13-dimethylhexadecahydrocyclopenta[a]phenanthren-17-yl]pentanoate
116 g of 4-(7,12-dihydroxy-3-methanesulfonyloxy-10,13-dimethylhexadecahydrocyclopenta[a]phenanthren-17-yl) pentanoic acid and 130 ml of triethylamine are dissolved in 650 ml of glycol and stirred at 100° C. for 3 hours and 115° C. for 7.5 hours. The reaction mixture is poured into a solution of 400 ml of H2SO4 in 3 l of water at 0° C. and extracted 7 times using 750 ml of EA each time. The extract is dried over Na2SO4 and the solvent is removed in vacuo. The intermediate product IP is obtained. 130 ml of acetyl chloride are added dropwise to 900 ml of methanol at 0° C. A solution of IP in 400 ml is then added and the mixture is stirred at RT for 6 hours. It is allowed to stand at RT for 60 hours, then poured into 2.6 l of water and extracted 8 times using 500 ml of diisopropyl ether (DIP) each time. The organic phase is then washed a further 6 times with 600 ml of a semisaturated aqueous NaHCO3 solution each time. It is dried over Na2SO4 and the solvent is removed in vacuo. Chromatography on silica gel using EA yields 32 g of a resinous solid.

reactant | 4-(7,12-dihydroxy-3-methanesulfonyloxy-10,13-dimethylhexadecahydrocyclopenta[a]phenanthren-17-yl) pentanoic acid | 116 g | OC1CC2CC(CCC2(C2CC(C3(C(CCC3C12)C(CCC(=O)O)C)C)O)C)OS(=O)(=O)C | C25H42O7S
reactant | triethylamine | 130 ml | C(C)N(CC)CC | C6H15N
reactant | H2SO4 | 400 ml | OS(=O)(=O)O | H2O4S
reactant | acetyl chloride | 130 ml | C(C)(=O)Cl | C2H3ClO
solvent | water | 3 l | O | H2O
solvent | water | 2.6 l | O | H2O
solvent | methanol | 900 ml | CO | CH4O
product | Methyl 4-[7,12-dihydroxy-3-(2-hydroxyethoxy)-10,13-dimethylhexadecahydrocyclopenta[a]phenanthren-17-yl]pentanoate | 32 g | OC1CC2CC(CCC2(C2CC(C3(C(CCC3C12)C(CCC(=O)OC)C)C)O)C)OCCO | C27H46O6
